Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N-:2]=[C:3]=[C:6]([N:5]([C+:4]([H:8])[H:9])[H:10])[H:12].[O:1]([H:7])[H:11]>>[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7],83.53779635299429
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[N:3](=[C:4]=[N:5][H:14])[C:6]#[N:7]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],70.60563039089222
[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],14.802565174165196
[O:1]([C:2]1([H:8])[C:3]([H:9])([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12])[H:7]>>[C:2]1([H:8])=[C:3]([H:10])[C:4](=[O:5])[C:6]1([H:11])[H:12].[O:1]([H:7])[H:9],51.6833372497748
[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]([O:7][H:13])([H:12])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])[H:8],63.406206739807
[C:1](=[C:2]([O:3][H:8])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])[H:9]>>[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],45.4302123490521
[C-:3]1=[O+:6][C:5]([H:15])([H:16])[C:4]1([H:13])[H:14].[C:1]([C:2]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],17.230735483493298
[C:1]([C:2]1=[C:7]([H:13])[C:6]([H:11])([H:12])[C:4](=[O:5])[O:3]1)([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],113.56698878060374
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]=[C:3]([C:4]([N:5]1[C:6]([H:8])([H:12])[O:7]1)([H:10])[H:11])[H:9],71.8652652157151
[C:1](#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[C:1]1([H:6])=[C:2]=[C:3]([H:7])[N:5]([H:10])[C:4]1([H:8])[H:9],68.93295658285379
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[C:4]([H:12])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18].[H:9][H:13],76.7467473931488
[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][H:13]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],71.1546619160178
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C-:1]([O+:2]=[C:3]([C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C:7]1([H:10])[H:17])[H:11])([H:8])[H:9],63.990297338896504
[C:1](/[C:2]([C:3]([C:4]#[N:5])([H:12])[H:13])=[C:6](\[C:7][H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4]#[N:5])([H:12])[H:13])([C:6]#[C:7][H:14])[H:11])([H:8])([H:9])[H:10],15.289324564953006
[C:1]([C:2]1=[C:4]([C:5]([H:13])([H:14])[H:15])[C:3]1([H:11])[H:12])([H:7])([H:8])[H:9].[C:6]([H:10])([H:16])([H:17])[H:18]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],82.68326379144129
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:8])([H:9])[H:13].[C:5](#[N:6])[H:7],111.327607183509
[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8]>>[O:1]([C+:2]1[N:3]([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C-:6]=[C:7]1[H:14])[H:8],94.8049622402397
[C:1]([C@@:3]([C:2]([H:8])([H:9])[H:10])([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11])[H:7]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11],0.7184973349129962
[O:1]([C:2](=[C:3]([H:8])[H:9])[C:6]#[N:7])[C:4]#[C:5][H:10]>>[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7],49.20014308316399
[O+:1]1=[C:2]([H:8])[N:3]([H:9])[C-:4]([H:10])[C:5]([H:12])([H:13])[C:6]([H:11])=[C:7]1[H:14]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],48.4237708155125
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C:6]([H:13])([H:14])[N:7]1[H:15]>>[O:1]([C@:2]12[N:3]([H:8])[C:4]([H:9])([H:10])[C:5]([H:11])([H:12])[C@@:6]1([H:13])[N:7]2[H:15])[H:14],103.11953815035999
[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:4]([C:3]#[C:2][H:7])[C:5](=[O:6])[H:8],71.6111809547455
[C:1]1([H:8])([H:10])[C@:2]([O:3][H:11])([C:6]#[N:7])[C:4][C:5]1([H:9])[H:12]>>[C:1]([C@@:2]([O:3][H:11])([C:4]#[C:5][H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],33.6910665654998
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]([C@@:2]1([H:9])[O:3][C:4]([H:10])([H:11])[C:5]1([H:12])[H:13])([C:6]#[N:7])[H:8],85.0595408931557
